US04189427
1 mol (84 g) of cyclopentanone, 1 mol (106 g) of benzaldehyde and 2 mols (132 g) of malonic acid dinitrile are dissolved in 1 1 of methanol and 60 ml of morpholine are added dropwise over a period of approx. 2 hours in such a way that the temperature of the reaction mixture does not exceed 45° C. The mixture is then stirred for a further 8 hours and the precipitate which forms during the reaction is filtered off. The filter residue is heated in 2 1 of ethanolic KOH for 10 minutes under reflux, the reaction mixture is poured out onto ice/water, the pH is adjusted to 2 with dilute sulphuric acid and the product is filtered off. 155 g of 6-amino-5,7-dicyano-4-phenyl-indane (60% of theory) are obtained, melting point 148°-149° C. (from benzene).

reactant | cyclopentanone | 1 mol, 84 g | C1(CCCC1)=O | C5H8O
reactant | benzaldehyde | 1 mol, 106 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | malonic acid dinitrile | 2 mols, 132 g | C(C#N)C#N | C3H2N2
reactant | morpholine | 60 ml | N1CCOCC1 | C4H9NO
solvent | methanol | CO | CH4O
product | 6-amino-5,7-dicyano-4-phenyl-indane | 155 g, 60% | NC1=C(C(=C2CCCC2=C1C#N)C1=CC=CC=C1)C#N | C17H13N3
